datasets/10k_Mayr_OG.csv
SMILES Labelled
"CN1C(=O)C(CC2=CC=CC=C2)/[N+:23](=[CH:22]/[CH:21]=[CH:20]/[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si:11]([H:10])([CH3:62])[CH3:72])[CH:94]=[CH:93]1>>CN1C(=O)C(CC2=CC=CC=C2)[N:23]([CH:22]=[CH:21][CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C#N)[CH:35]=[CH:36]2)C1(C)C.C[O:86][C:85]1=[CH:84][CH:83]=[C:82]([Si+:11]([CH3:62])[CH3:72])[CH:94]=[CH:93]1 10,11=10,20;20,21=21,22;22,23=23"
"C1=CC=C([C:23]2=[CH:22][C:21](=[CH:20][C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)[CH:32]=[C:33](C3=CC=CC=C3)[C:24]2=[O:25])C=C1.CC(C)(C)C[Si:11](C)(C)[H:10]>>C1=CC=C([C:23]2=[C:24]([O-:25])[C:33](C3=CC=CC=C3)=[CH:32][C:21]([CH:20]([H:10])[C:41]3=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]3)=[CH:22]2)C=C1.CC(C)(C)C[Si+:11](C)C 10,11=10,20;20,21=21,22;22,23=23,24;24,25=25"
"C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CC[N:12]3C4=C(C=CC=C4)[S:62][C:11]3=[N:10]2)C=C1.[CH+:20]([C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1)[C:41]1=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]1>>C1=CC=C(C(C2=CC=CC=C2)[C@@H]2CC[N+:12]3=[C:11]([N:10]2[CH:20]([C:31]2=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]2)[C:41]2=[CH:42][CH:43]=[CH:44][CH:45]=[CH:46]2)[S:62]C2=C3C=CC=C2)C=C1 10,11=10,20;12=11,12"
"C[N:62](C)[C:61](=[NH:10])[N:72](C)C.N#C[C:33]1=[CH:32][C:21]([N+:22]([O-])=[O:23])=[CH:20][C:41]2=[N+:42]([O-])O[N:35]=[C:34]12>>C[N:62](C)[C:61](=[NH+:10][CH:20]1[C:21](=[N+:22]([O-])[O-:23])[CH:32]=[C:33](C#N)[C:34]2=[N:35]O[N+:42]([O-])=[C:41]12)[N:72](C)C 10=20;20,21=21,22;22,23=23"
"C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21](=[CH:20][C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)[C:22]1=[O:23].[O+]#C[W-3:11]1234(C#[O+])(C#[O+])([H:10])C5C1C21C=CC=CC13C54>>C[N:51]1C(=O)[N:52](C)[C:32](=[O:33])[C:21]([CH:20]([H:10])[C:41]2=[CH:42][C:43]3=[C:44]4N(CCC3)CCC[C:45]4=[CH:46]2)=[C:22]1[O-:23].[O+]#C[W-2:11]1234(C#[O+])(C#[O+])C5C1C21C=CC=CC13C54 10,11=10,20;20,21=21,22;22,23=23"
"C[C:22]1=[NH+:23]C2=C(C=CC=C2)/[C:21]1=[CH:20]\[C:31]1=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]1.[H:10][Ge:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1>>C[C:22]1=[C:21]([CH:20]([H:10])[C:31]2=[CH:32][CH:33]=[C:34](C)[CH:35]=[CH:36]2)C2=C(C=CC=C2)[NH:23]1.[Ge+:11]([C:62]1=[CH:63][CH:64]=[CH:65][CH:66]=[CH:67]1)([C:72]1=[CH:73][CH:74]=[CH:75][CH:76]=[CH:77]1)[C:82]1=[CH:83][CH:84]=[CH:85][CH:86]=[CH:87]1 10,11=10,20;20,21=21,22;22,23=23"
CCCC[C-:10]([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC.C[O:37][C:34]1=[CH:33][CH:32]=[C:31]([CH+:20][CH:41]=[CH:42][C:53]2=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]2)[CH:36]=[CH:35]1>>CCCC[C:10]([CH:20]([C:31]1=[CH:32][CH:33]=[C:34]([O:37]C)[CH:35]=[CH:36]1)[CH:41]=[CH:42][C:53]1=[CH:54][CH:55]=[C:56]([O:59]C)[CH:57]=[CH:58]1)([C:61](=[O:62])[O:112]CC)[C:71](=[O:72])[O:82]CC 10=20
"C1CC[C:21](=[O:20])C1.C[O:12][CH:11]([H:10])[O:62]C>>C1CC[C-:21]([O:20][H:10])C1.C[O+:12]=[CH:11][O:62]C 10,11=10,20;12=11,12;20,21=21"
"C/[C:11](=[CH:10]/[P+:61](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)[O-:12].CO[C:34]1=[CH:33][CH:32]=[C:31](/[CH:20]=[C:21](\C[N+]2=CC=C(N(C)C)C=C2)[C:22](C)=[O:23])[CH:43]=[CH:44]1>>CO[C:34]1=[CH:33][CH:32]=[C:31]([CH:20]([CH:10]([C:11](C)=[O:12])[P+:61](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)[C:21](C[N+]2=CC=C(N(C)C)C=C2)=[C:22](C)[O-:23])[CH:43]=[CH:44]1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"CC[Si:11](C)(C)[H:10].C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1>>CC[Si+:11](C)C.C[N:21](C)[CH:20]([H:10])[C:31]1=[CH:32][CH:33]=[C:34](C(F)(F)F)[CH:35]=[CH:36]1 10,11=10,20;20,21=21"
"CC(C)(C)[Si](C)(C)O[N:12](O[Si](C)(C)C(C)(C)C)[C:11](C)=[CH2:10].C[N+:21](C)=[CH:20][C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1>>CC(C)(C)[Si](C)(C)O[N+:12](O[Si](C)(C)C(C)(C)C)=[C:11](C)[CH2:10][CH:20]([N:21](C)C)[C:31]1=[CH:32][CH:33]=[CH:34][CH:35]=[CH:36]1 10,11=10,20;12=11,12;20,21=21"
"C1CC[C:11]([N:12]2CCCC2)=[CH:10]C1.CN(C)C1=CC=C([CH:20]=[C:21]([C:22]#[N:23])[C:32]#[N:33])C=C1>>CN(C)C1=CC=C([CH:20]([CH:10]2CCCC[C:11]2=[N+:12]2CCCC2)[C:21](=[C:22]=[N-:23])[C:32]#[N:33])C=C1 10,11=10,20;12=11,12;20,21=21,22;22,23=23"
"C1CC[N:12]([C:11]2=[CH:10]CCC2)CC1.C[N:21](C1=CC=CC=C1)[S:20]C(F)(F)F>>C[N-:21]C1=CC=CC=C1.FC(F)(F)[S:20][CH:10]1CCC[C:11]1=[N+:12]1CCCCC1 10,11=10,20;12=11,12;20,21=21"
"C1=C[C:71]2=[C:72](C=C1)[NH:62][N:61]=[N:10]2.CO[C:44]1=[CH:43][CH:42]=[C:41](/[CH:20]=[CH:21]/[N+:22](=[O:23])[O-:33])[CH:46]=[CH:45]1>>CO[C:44]1=[CH:43][CH:42]=[C:41]([CH:20]([N+:10]2=[N:61][NH:62][C:72]3=[C:71]2C=CC=C3)[CH:21]=[N+:22]([O-:23])[O-:33])[CH:46]=[CH:45]1 10=20;20,21=21,22;22,23=23"
"C1=CC=C([C:22]([CH:21]=[CH2:20])=[O:23])C=C1.C[C:11]([H:10])(/[CH:12]=[CH:13]/C)/[CH:72]=[CH:73]/C>>C1=CC=C([C:22](=[CH:21][CH2:20][H:10])[O-:23])C=C1.C[C:11](=[CH:12][CH+:13]C)/[CH:72]=[CH:73]/C 10,11=10,20;12,13=11,12;20,21=21,22;22,23=23"
